US09127003B2
(R)-(3-Aminopiperidin-1-yl)(1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]-pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone
To a stirred solution of (R)-tert-butyl(1-(1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate (1.9336 g, 3.47 mmol) in dichloromethane (DCM) (5.5 ml) was added TFA (5.05 ml, 66.0 mmol) dropwise. The reaction mixture was stirred for 45 min. The mixture was concentrated in vacuo, dissolved in methanol and purified by SPE on a pre-conditioned sulfonic acid (SCX) 70 g cartridge. The column was washed with methanol (5 CV) and the product was eluted with a 2M Ammonia in methanol solution (4 CV). The appropriate fractions were combined and the solvent was evaporated in vacuo to give a crude product that was purified by preparative HPLC (MDAP Method E). Appropriate fractions were combined and concentrated in vacuo to yield the title compound (1.35 g)

reactant | (R)-tert-butyl(1-(1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate | 3.47 mmol, 1.9336 g | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC(F)(F)F)C)C=C1)=O | C28H31F3N6O3
reactant | TFA | 66.0 mmol, 5.05 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5.5 ml | ClCCl | CH2Cl2
product | (R)-(3-Aminopiperidin-1-yl)(1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]-pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone | 1.35 g | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC(F)(F)F)C)C=C1 | C23H23F3N6O
